US04759869
KOH (5 g, 0.09 mol) was added to a solution of methyl p-hydroxybenzoate (13.6 g, 0.09 mol) dissolved in methanol (66 ml), followed by dissolving these together on heating, adding (S)-p-(4-methylhexyloxy)toluenesulfonate (20 g, 0.07 mol) prepared from 4-methylhexanol in the same manner as in Example 1, (ii), heating the mixture under reflux for 10 hours, extracting the reaction mixture with toluene after completion of the reaction, distilling off the solvent, to obtain methyl (S)-p-(4-methylhexyloxy)benzoate (17 g), adding to a solution of this product dissolved in ethanol (7.5 ml), a solution of NaOH (4.9 g, 0.14 mol) dissolved in water (24.6 ml), heating the mixture under reflux for 5 hours, pouring the resulting reaction mixture into 6N-hydrochloric acid (90 ml) having the ice added, allowing the mixture to stand overnight, recrystallizing the resulting crystals from heptane to obtain (S)-p-(4-methylhexyloxy)benzoic acid (6.5 g), adding thionyl chloride (20 ml) to the benzoic acid (5 g, 0.02 mol), heating the mixture under reflux for one hour, and distilling off excess thionyl chloride to obtain p-(4-methylhexyloxy)benzoic acid chloride (XI) (5 g).

reactant | KOH | 0.09 mol, 5 g | [OH-].[K+]
reactant | methyl p-hydroxybenzoate | 0.09 mol, 13.6 g | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | (S)-p-(4-methylhexyloxy)toluenesulfonate | 0.07 mol, 20 g | C[C@H](CCCOC=1C=C(C(=CC1)C)S(=O)(=O)[O-])CC
reactant | 4-methylhexanol | CC(CCCO)CC | C7H16O
solvent | methanol | 66 ml | CO | CH4O
product | methyl (S)-p-(4-methylhexyloxy)benzoate | 17 g | C[C@H](CCCOC1=CC=C(C(=O)OC)C=C1)CC | C15H22O3
